### PR TITLE
rt: progress in Finalise_R

### PR DESCRIPTION
**Pull request by corlewis**
This removes 4 sorries in Finalise_R and adds one new one for `replyRemove_corres`. My guess is that it will be easiest to review by commit, with a lot of the changes involving moving lemmas earlier.

### CODE REVIEW

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -4368,62 +4489,388 @@ global_interpretation delete_one
    apply auto
   done
 
+(*FIXME RT: move*)
+lemma corres_split_new:
```
Comment (corlewis) [inline proof/refine/ARM/Finalise_R.thy:4493]: This lemma is temporary and can be removed after https://github.com/seL4/l4v/pull/218 is merged into master and then rt.

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -3874,6 +3885,13 @@ lemma reply_at'_cross_rel:
   apply clarsimp
   by (erule (3) reply_at_cross)
 
+lemma sch_act_simple_cross_rel:
+  "cross_rel simple_sched_action sch_act_simple"
+  apply (clarsimp simp: cross_rel_def)
+  by (fastforce simp: simple_sched_action_def sch_act_simple_def
+                   dest: state_relation_sched_act_relation
```
Comment (VictorPhan) [inline proof/refine/ARM/KHeap_R.thy:3892]: nitpick: indentation

File: proof/refine/ARM/SchedContext_R.thy [hunk 3]
```diff
@@ -8,8 +8,521 @@ theory SchedContext_R
...
+  by (auto simp: valid_idle'_def obj_at'_real_def ko_wp_at'_def)[1]
+
+lemma setSchedContext_invs':
+  "\<lbrace>invs' and K (scPtr = idle_sc_ptr \<longrightarrow> idle_sc' sc)
+    and (\<lambda>s. live_sc' sc \<longrightarrow> ex_nonz_cap_to' scPtr s)
+    and valid_sched_context' sc
+    and (\<lambda>_. valid_sched_context_size' sc)\<rbrace>
+    setSchedContext scPtr sc
+    \<lbrace>\<lambda>rv. invs'\<rbrace>"
+  apply (simp add:  invs'_def valid_state'_def)
```
Comment (VictorPhan) [inline proof/refine/ARM/SchedContext_R.thy:40]: nitpick: space

File: proof/refine/ARM/SchedContext_R.thy [hunk 4]
```diff
@@ -8,8 +8,521 @@ theory SchedContext_R
...
+  apply (fastforce simp: obj_at'_def projectKOs)
+  done
+
+lemma schedContextCancelYieldTo_if_live_then_nonz_cap'[wp]:
+  "\<lbrace>\<lambda>s. if_live_then_nonz_cap' s\<rbrace>
+   schedContextCancelYieldTo tptr
+   \<lbrace>\<lambda>_. if_live_then_nonz_cap'\<rbrace>"
+  apply (clarsimp simp: schedContextCancelYieldTo_def)
+  apply (rule hoare_seq_ext[OF _ threadGet_sp])
+  apply (rule hoare_when_cases; (solves \<open>wpsimp\<close>)?)
```
Comment (VictorPhan) [inline proof/refine/ARM/SchedContext_R.thy:318]: Is this okay to have in the final proof? I guess it means apply `wpsimp` to every produced subgoal that can be solved by `wpsimp` otherwise leave it alone.

File: proof/refine/ARM/SchedContext_R.thy [hunk 5]
```diff
@@ -8,8 +8,521 @@ theory SchedContext_R
...
 
+lemma complete_yield_to_corres:
+  "corres dc (invs and tcb_at thread) (invs' and tcb_at' thread)
+    (complete_yield_to thread) (schedContextCompleteYieldTo thread)"
+  apply (simp add: complete_yield_to_def schedContextCompleteYieldTo_def)
+  apply (subst maybeM_when)
+  apply (rule corres_guard_imp)
+    apply (rule corres_split [OF _ get_tcb_yield_to_corres], simp)
+      apply (rule corres_when2[OF refl])
+      apply (clarsimp, wpfix)
```
Comment (VictorPhan) [inline proof/refine/ARM/SchedContext_R.thy:492]: Can we avoid having `wpfix` in our final proof or is this something we can permit?

File: proof/refine/ARM/VSpace_R.thy [hunk 6]
```diff
@@ -3107,6 +3107,45 @@ lemma isPDCap_PD :
...
+  apply (clarsimp simp del: imp_disjL)
+  apply (drule obj_at_ko_at')
+  apply (clarsimp simp del: imp_disjL)
+  apply (rule_tac x = ko in exI)
+  apply (frule ko_at_cte_ipcbuffer)
+  apply (clarsimp simp: cte_wp_at_ctes_of simp del: imp_disjL)
+  apply (clarsimp simp: valid_ipc_buffer_ptr'_def)
+  apply (frule (1) ko_at_valid_objs')
+   apply (clarsimp simp: projectKO_opts_defs split: kernel_object.split_asm)
+  apply (clarsimp simp add: valid_obj'_def valid_tcb'_def
```
Comment (VictorPhan) [inline proof/refine/ARM/VSpace_R.thy:3125]: You can remove `add` right?

Comment (VictorPhan) [reply proof/refine/ARM/VSpace_R.thy:3125]: If so then fix up indentation in the line directly below this too

File: proof/refine/ARM/VSpace_R.thy [hunk 7]
```diff
@@ -3107,6 +3107,45 @@ lemma isPDCap_PD :
...
+                            isCap_simps cte_level_bits_def field_simps)
+  apply (drule bspec [OF _ ranI [where a = "0x20"]])
+   apply simp
+  apply (clarsimp simp add: valid_cap'_def)
```
Comment (VictorPhan) [inline proof/refine/ARM/VSpace_R.thy:3129]: remove `add`

File: proof/refine/ARM/VSpace_R.thy [hunk 8]
```diff
@@ -3107,6 +3107,45 @@ lemma isPDCap_PD :
...
+  apply (rule conjI)
+   apply (rule aligned_add_aligned)
+     apply (clarsimp simp add: capAligned_def)
```
Comment (VictorPhan) [inline proof/refine/ARM/VSpace_R.thy:3132]: remove `add`

File: proof/refine/ARM/Finalise_R.thy [hunk 9]
```diff
@@ -4368,62 +4489,388 @@ global_interpretation delete_one
...
-       apply (clarsimp simp: valid_cap'_def)
-      apply (fastforce simp: final_matters'_def shiftL_nat zbits_map_def)
-     apply (clarsimp simp add: final_matters'_def getThreadCSpaceRoot
-                               liftM_def[symmetric] o_def zbits_map_def
-                               dc_def[symmetric])
+       (* CNodeCap *)
+       apply (fastforce simp: final_matters'_def shiftL_nat zbits_map_def)
+      (* ThreadCap *)
+      apply (rename_tac tptr)
+      apply (clarsimp simp add: final_matters'_def getThreadCSpaceRoot
```
Comment (VictorPhan) [inline proof/refine/ARM/Finalise_R.thy:4819]: remove `add`

File: proof/refine/ARM/VSpace_R.thy (hunk 6 above)
Comment (VictorPhan) [reply proof/refine/ARM/VSpace_R.thy:3125]: Okay, I see that the lemmas with `clarsimp simp add:` were just lemmas you moved from later files, not from your new proofs. In that case, no need to change them I think, otherwise it'd go into a cleanup commit.

File: lib/Corres_UL.thy [hunk 10]
```diff
@@ -1103,6 +1103,16 @@ lemma corres_cases':
                                    (\<lambda>s. (R \<longrightarrow> P' s) \<and> (\<not>R \<longrightarrow> Q' s)) f g"
   by (cases R; simp)
 
+lemma corres_cases_lhs:
```
Comment (VictorPhan) [inline lib/Corres_UL.thy:1106]: nice!

**Review by VictorPhan — APPROVED** [review]
Looks good to me!

File: proof/refine/ARM/SchedContext_R.thy (hunk 4 above)
Comment (lsf37) [reply proof/refine/ARM/SchedContext_R.thy:318]: Yes, that's what it means and should be fine.

File: proof/refine/ARM/SchedContext_R.thy (hunk 5 above)
Comment (lsf37) [reply proof/refine/ARM/SchedContext_R.thy:492]: I don't think we can always eliminate it.

File: proof/refine/ARM/Finalise_R.thy [hunk 11]
```diff
@@ -4289,6 +4358,40 @@ lemma sched_context_maybe_unbind_ntfn_corres:
...
+  "corres dc (invs and tcb_at tptr) (invs' and K (rptr' = rptr))
+      (reply_remove tptr rptr) (replyRemove rptr' tptr)"
+  apply (clarsimp simp: reply_remove_def replyRemove_def)
+  sorry
+
+lemma replyClear_corres:
+  "corres dc
+          (invs and valid_ready_qs and st_tcb_at is_reply_state tp)
+          (invs' and st_tcb_at' (\<lambda>st. replyObject st = Some rptr) tp)
+          (do
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4371]: Nitpick: perhaps change the indentation of this `do` block?

File: proof/refine/ARM/Finalise_R.thy [hunk 12]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+                         tcb_relation (f (\<lambda>_. new) tcb) (f' tcb')"
+  assumes y: "\<And>tcb. \<forall>(getF, setF) \<in> ran tcb_cap_cases. getF (f (\<lambda>_. new) tcb) = getF tcb"
+  assumes z: "\<forall>tcb. \<forall>(getF, setF) \<in> ran tcb_cte_cases.
+                 getF (f' tcb) = getF tcb"
+  shows      "corres dc (tcb_at t)
+                        (tcb_at' t)
+                    (set_tcb_obj_ref f t new) (threadSet f' t)"
+  by (clarsimp simp: set_tcb_obj_ref_thread_set threadset_corresT x y z)
+
+lemma set_sc_obj_ref_no_stack_update_corres:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4520]: Is this just moved from KHeap_R? I know there's something very similar, maybe just phrased in terms of `update_sched_context` (set_sc_obj_ref` is just an abbreviation of that, I think)

Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4520]: Maybe this is new, but just move convenient for you. In which case, maybe it can be moved to live with its cousins

File: proof/refine/ARM/Finalise_R.thy [hunk 13]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+          (sched_context_unbind_tcb sc_ptr) (schedContextUnbindTCB sc_ptr)"
+  apply (clarsimp simp: sched_context_unbind_tcb_def schedContextUnbindTCB_def
+                        sym_refs_asrt_def)
+  apply add_sym_refs
+  apply (rule corres_stateAssert_implied[where P'=\<top>, simplified])
+  apply (rule corres_guard_imp)
+     apply (rule corres_split_new[OF get_sc_corres])
+       apply (rule corres_assert_opt_assume_l)
+       apply (rule corres_assert_assume_r)
+       apply (prop_tac "scTCB sca = sc_tcb sc"; clarsimp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4556]: rename_tac that sca?

File: proof/refine/ARM/Finalise_R.thy [hunk 14]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+                  apply (clarsimp simp: tcb_cte_cases_def)
+                 apply (rule_tac sc'=sca in set_sc_obj_ref_no_stack_update_corres)
+                    apply (clarsimp simp: sc_relation_def objBits_def objBitsKO_def)+
+                apply wpsimp+
+       apply (case_tac sca; clarsimp)
+       apply (wpfix add: sched_context.sel)
+       apply simp
+      apply wpsimp+
+    apply (frule invs_valid_objs)
+    apply (auto simp: sc_at_pred_n_def obj_at_def is_obj_defs valid_obj_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4575]: In that discussion on `by`, I know Matt said he was dead against `auto (blah)[1]`. Can this be removed, or maybe we do want to go with `subgoal by auto (blah)` to help with some sort of CI check?

Just out of curiosity, I've seen a lot of `frule`s followed by big `fastforce` or `auto` blocks. Is there something preventing `auto` or `fastforce` from using `invs_valid_objs` as a `dest` rule in these cases?

File: proof/refine/ARM/Finalise_R.thy [hunk 15]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+       apply (rule_tac Q="\<lambda>_. sc_at' y and invs'" in hoare_post_imp)
+        apply (fastforce simp: projectKOs valid_obj'_def valid_sched_context'_def
+                        dest!: ko_at_valid_objs')
+       apply (wpsimp wp: typ_at_lifts get_tcb_obj_ref_wp threadGet_wp)+
+    apply (frule invs_valid_objs, frule invs_sym_refs, frule invs_valid_global_refs)
+    apply (clarsimp simp: invs_psp_aligned invs_distinct)
+    apply (frule sym_ref_tcb_sc; (fastforce simp: obj_at_def)?)
+    apply (subgoal_tac "ex_nonz_cap_to y s")
+     apply (auto dest!: idle_sc_no_ex_cap
+                 simp: obj_at_def sc_at_pred_n_def valid_obj_def valid_tcb_def)[1]
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4626]: Indentation

File: proof/refine/ARM/Finalise_R.thy [hunk 16]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+           apply (rule_tac F="scReply sc = Some (hd (sc_replies x))" in corres_gen_asm2)
+           apply clarsimp
+           apply (rule corres_split_new[OF replyNext_update_corres_empty])
+             apply (rule update_sc_reply_stack_update_ko_at'_corres)
+            apply wpsimp+
+          apply (clarsimp simp: obj_at_def)
+          apply (frule (1) valid_sched_context_objsI)
+          apply (clarsimp simp: valid_sched_context_def list_all_def obj_at_def)
+         apply clarsimp
+         apply (case_tac "sc_replies x"; simp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4696]: rename_tac this x

File: proof/refine/ARM/Finalise_R.thy [hunk 17]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+  "corres dc (einvs and sc_at scPtr and K (scPtr \<noteq> idle_sc_ptr)) (invs' and sc_at' scPtr)
+          (sched_context_unbind_yield_from scPtr) (schedContextUnbindYieldFrom scPtr)"
+  apply (clarsimp simp: sched_context_unbind_yield_from_def schedContextUnbindYieldFrom_def
+                        maybeM_when)
+  apply add_sym_refs
+  apply (rule corres_stateAssert_implied[where P'=\<top>, simplified])
+   apply (rule corres_guard_imp)
+     apply (rule corres_split_new[OF get_sc_corres])
+       apply (case_tac sca)
+       apply (clarsimp simp: sc_relation_def)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4726]: rename_ac this sca and is the indentation correct here?

File: proof/refine/ARM/Finalise_R.thy [hunk 18]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+       apply (wpfix add: sched_context.sel)
+       apply (rule corres_when)
+        apply (clarsimp simp: sc_relation_def)
+       apply (rule complete_yield_to_corres)
+      apply wpsimp+
+    apply (fastforce dest!: invs_valid_objs valid_objs_ko_at
+                      simp: valid_obj_def valid_sched_context_def)
+   apply (fastforce dest!: sc_ko_at_valid_objs_valid_sc'
+                     simp: valid_obj'_def valid_sched_context'_def )
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4735]: Extra space

File: proof/refine/ARM/Finalise_R.thy [hunk 19]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+  apply (clarsimp simp: sym_refs_asrt_def)
+  done
+
+lemma set_sc_obj_ref_twice_rewrite:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4739]: I've got a more general version of this, if you'd like (well, I resurrected it from when `refill_new` and `refill_update` were defined in terms of one big `update_sched_context. I think Matt wrote this proof.)

```
lemma update_sched_context_decompose:
   "update_sched_context scp (λsc. f (g sc))
    = (do update_sched_context scp g; update_sched_context scp f od)"
  apply (rule ext)
  by (clarsimp simp: update_sched_context_def get_object_def set_object_def a_type_simps
                     gets_def get_def put_def return_def fail_def assert_def bind_def
              split: Structures_A.kernel_object.splits)
```

**Review by michaelmcinerney — APPROVED** [review]
Very nice

File: proof/refine/ARM/Finalise_R.thy [hunk 20]
```diff
@@ -4289,6 +4358,40 @@ lemma sched_context_maybe_unbind_ntfn_corres:
      apply (wpsimp wp: get_simple_ko_wp getNotification_wp split: option.splits)+
   done
 
+lemma replyRemove_corres:
+  "corres dc (invs and tcb_at tptr) (invs' and K (rptr' = rptr))
+      (reply_remove tptr rptr) (replyRemove rptr' tptr)"
+  apply (clarsimp simp: reply_remove_def replyRemove_def)
+  sorry
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:4365]: This should work fine with what I have as work-in-progress. I really should finish removing this sorry...

File: proof/refine/ARM/Finalise_R.thy (hunk 12 above)
Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy:4520]: yes, there is `update_sc_no_reply_stack_update_ko_at’_corres` in KHeap_R, which I think covers this case. Just having a look at it, we should remove `pspace_aligned` and `pspace_distinct` from the abstract guard because we don’t need to cross `sc_at’` when we already have `ko_at’` for an SC.

File: proof/refine/ARM/Finalise_R.thy [hunk 21]
```diff
@@ -4362,62 +4489,388 @@ global_interpretation delete_one
...
+                      valid_sched_context_def)[1]
+   apply normalise_obj_at'
+   apply (frule invs_valid_objs')
+   apply (auto simp: valid_obj'_def valid_sched_context'_def projectKOs
+              dest!: ko_at_valid_objs')
+  done
+
+lemma get_tcbSchedContext_corres:
+  "corres (=) (pspace_aligned and pspace_distinct and tcb_at t) \<top>
+          (get_tcb_obj_ref tcb_sched_context t) (threadGet tcbSchedContext t)"
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy:4585]: There is `threadget_corres` that should cover this case once you unfold `get_tcb_obj_ref`.
I would be happy not to have this lemma, but we could generalise it so that it’s not about `tcbSchedContext` specific and keep it (and move to KHeap_R).

**Review by mktnk3 — COMMENTED** [review]
I haven’t finished reviewing but sending a few comments for now

File: proof/refine/ARM/Finalise_R.thy (hunk 11 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4371]: What indentation would you prefer?

File: proof/refine/ARM/VSpace_R.thy (hunk 6 above)
Comment (corlewis) [reply proof/refine/ARM/VSpace_R.thy:3125]: Yes, these lemmas were moved but I'm happy to still do the cleanup here while I'm touching them. @mktnk3 are you ok with that?

File: proof/refine/ARM/Finalise_R.thy (hunk 12 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4520]: Thanks for pointing this out. I've removed my version and updated `update_sc_no_reply_stack_update_ko_at’_corres`.

File: proof/refine/ARM/VSpace_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/VSpace_R.thy:3125]: sure, of course!

File: proof/refine/ARM/Finalise_R.thy (hunk 14 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4575]: In this case I can just change the `auto` to a `fastforce`. I'm not sure why I didn't do that originally.

I think generally we use an `frule` like that when there's an assumption that needs to be used multiple times. Here there's multiple facts that we need from `invs'` (we need to show `pspace_aligned` and `pspace_distinct`, and the `valid_objs` is required for getting to a `valid_obj`).

File: proof/refine/ARM/Finalise_R.thy (hunk 17 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4726]: Yep, the indentation is correct. The `case_tac` doesn't introduce any new cases, it's instead being used to expand the `SchedContext` datatype constructor so that the following `wp_fix` can be used.

File: proof/refine/ARM/Finalise_R.thy (hunk 19 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4739]: Thanks, that's a much nicer rule (and proof)! Any suggestions for where it should go?

File: proof/refine/ARM/Finalise_R.thy (hunk 21 above)
Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4585]: I think I'm happy to unfold it here.
It's probably not worth changing at the moment, but would it make things simpler if `get_tcb_obj_ref` was an abbreviation?

Comment (corlewis) [reply proof/refine/ARM/Finalise_R.thy:4585]: I changed my mind and did
```
lemmas get_tcb_obj_ref_corres
  = threadget_corres[where 'a="obj_ref option", folded get_tcb_obj_ref_def]
  ```

File: proof/refine/ARM/Finalise_R.thy (hunk 11 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4371]: Do we want the first line of the `do` block on the same line as the first `do`? Not a big deal, of course

File: proof/refine/ARM/Finalise_R.thy (hunk 14 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4575]: Ah, that makes sense. Cool

File: proof/refine/ARM/Finalise_R.thy (hunk 19 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4739]: If you'd like to put it in AInvs, then I reckon KHeap is as good as any. If that seems too high up, then maybe one of the DetSched files, probably no later than the top part of DetSchedSchedule (before it gets gnarly)

File: proof/refine/ARM/Reply_R.thy [hunk 22]
```diff
@@ -942,6 +942,18 @@ lemma bindScReply_valid_objs'[wp]:
   apply (clarsimp simp: obj_at'_def)
   done
 
+lemma sym_refs_replySCs_of:
+  "\<lbrakk>ko_at' sc scPtr s; scReply sc = Some rptr; sym_refs (state_refs_of' s)\<rbrakk>
+   \<Longrightarrow> replySCs_of s rptr = Some scPtr"
```
Comment (mktnk3) [inline proof/refine/ARM/Reply_R.thy:947]: In my `reply_remove_tcb_corres` PR, there is
```
lemma sym_refs_replySc_scReplies_of:
   "\<lbrakk>reply_at' rp s'; sym_refs (state_refs_of' s'); sc_at' scp s'\<rbrakk>
    \<Longrightarrow> replySCs_of rp = Some scp \<longleftrightarrow> scReplies_of s' scp = Some rp"
 ```
  which might be slightly more general. But we actually don’t need both of `reply_at’` and `sc_at’`.

**Review by mktnk3 — APPROVED** [review]
Nicely done. It is great to see the `finalise_cap_corres` finished!

Some of the lemmas on replies are quite close to what I have in the `reply_remove_tcb_corres` PR. I guess I can try and consolidate some when I get to merge that one. Hopefully soon.

File: proof/refine/ARM/KHeap_R.thy [hunk 23]
```diff
@@ -1612,6 +1612,14 @@ lemma get_reply_corres:
   apply (simp add: other_obj_relation_def)
   done
 
+lemma get_reply_tcb_corres:
```
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/KHeap_R.thy:1615]: This is one of the cases where we have an abstract function but no concrete one. @VictorPhan what convention are we going with for cases like this? I guess the alternative name would be `getReplyTCB_corres`

File: proof/refine/ARM/Reply_R.thy (hunk 22 above)
Comment (mktnk3) [reply proof/refine/ARM/Reply_R.thy:947]: Actually, we don’t need either of them if we have the following:
```
lemma sym_refs_replySc_scReplies_of:
   "\<lbrakk>sym_refs (state_refs_of' s'); pspace_aligned' s’; pspace_distinct’ s'\<rbrakk>
    \<Longrightarrow> replySCs_of rp = Some scp \<longleftrightarrow> scReplies_of s' scp = Some rp"
 ```

File: proof/refine/ARM/KHeap_R.thy (hunk 23 above)
[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/KHeap_R.thy:1615]: My immediate instinct was to go for something like `getReply_TCB_corres` since we're calling `getReply` at the core and a `TCB` is returned from the body. The naming could be confused with passing in a `TCB` to`getReply` though, so another possibility is the more explicit `replyTCB_getReply_corres`.

[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/KHeap_R.thy:1615]: Out of those two I prefer `getReply_TCB_corres`. If we were going more explicit I would prefer `getReply_replyTCB_corres`, but that seems a bit repetitive.

[the remark this answers is not in the document]
Comment (VictorPhan) [reply proof/refine/ARM/KHeap_R.thy:1615]: I'm happy with `getReply_TCB_corres`, though I'm also okay with having a bit of repetition for explicitness.

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:1615]: I think I’d also slightly prefer the shorter `getReply_TCB_corres`.
